US09120749B2
1-{6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]quinolin-3-yl}-2-methylpropan-1-one
Following general procedure D, 1-{6-bromo-4-[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]quinolin-3-yl}-2-methylpropan-1-one (30 mg, 0.068 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (27 mg, 0.102 mmol) to afford the desired product (27.4 mg, 79%) as a yellow-brown solid: 1H NMR (500 MHz, CD3OD) δ 8.77 (s, 1H), 8.27 (d, J=1.8 Hz, 1H), 8.07-7.99 (m, 2H), 7.55-7.51 (m, 1H), 7.44 (dd, J=11.6, 2.2 Hz, 1H), 3.54-3.42 (m, 3H), 3.38-3.33 (m, 4H), 3.21-3.11 (m, 4H), 2.15-2.06 (m, 5H), 1.99 (d, J=11.0 Hz, 2H), 1.75-1.64 (m, 2H), 1.26 (d, J=6.9 Hz, 6H); ESI MS m/z 510 [C29H33ClFN3O2+H]+; HPLC 97.7% (AUC), tR=11.07 min.

reactant | 1-{6-bromo-4-[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]quinolin-3-yl}-2-methylpropan-1-one | 0.068 mmol, 30 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C(C)C)=O)N1CCC(CC1)CN1CCCC1 | C23H30BrN3O
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.102 mmol, 27 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | 1-{6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-[4-(pyrrolidin-1-ylmethyl)piperidin-1-yl]quinolin-3-yl}-2-methylpropan-1-one | 27.4 mg, 79% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(C(C)C)=O)N1CCC(CC1)CN1CCCC1 | C29H33ClFN3O2
